US08802668B2
7-(2,5-dihydro-4-imidazo[1,2-a]pyridine-3-yl-2,5-dioxo-1H-pyrrol-3-yl)-9-fluoro-1,2,3,4-tetrahydro-2-(1-piperidinyl-carbonyl)-pyrrolo[3,2,1-jk][1,4]benzodiazepine hydrate I
Heat a slurry of 7-(2,5-dihydro-4-imidazo[1,2-a]pyridine-3-yl-2,5-dioxo-1H-pyrrol-3-yl)-9-fluoro-1,2,3,4-tetrahydro-2-(1-piperidinyl-carbonyl)-pyrrolo[3,2,1-jk][1,4]benzodiazepine ethanolate (198.5 mg) in water (10 mL) to 80° C. for 2.75 hours. Add 3.11 mL of 1N HCl. When the temperature has returned to 80° C., rapidly add 3.11 mL of 1N NaOH. Allow the temperature to remain at 80° C. for approximately 15 minutes then allow the suspension to cool to room temperature. Collect the solid using vacuum filtration through Whatman #1 paper and allow to dry loosely covered over night. Powder X-ray Principal Peaks (Degrees 2 Theta, Intensity): 12.089°, 100%; 10.485°, 83.6%; 13.227°, 56.0%; and 7.660°, 8.0%.

reactant | 7-(2,5-dihydro-4-imidazo[1,2-a]pyridine-3-yl-2,5-dioxo-1H-pyrrol-3-yl)-9-fluoro-1,2,3,4-tetrahydro-2-(1-piperidinyl-carbonyl)-pyrrolo[3,2,1-jk][1,4]benzodiazepine ethanolate | 198.5 mg | N=1C=C(N2C1C=CC=C2)C2=C(C(NC2=O)=O)C2=NCCN1C3=C2C=C(C=C3C(C1C(=O)N1CCCCC1)CC[O-])F
reactant | HCl | 1N, 3.11 mL | Cl | ClH
reactant | NaOH | 1N, 3.11 mL | [OH-].[Na+]
solvent | water | 10 mL | O | H2O
product | 7-(2,5-dihydro-4-imidazo[1,2-a]pyridine-3-yl-2,5-dioxo-1H-pyrrol-3-yl)-9-fluoro-1,2,3,4-tetrahydro-2-(1-piperidinyl-carbonyl)-pyrrolo[3,2,1-jk][1,4]benzodiazepine hydrate | O.N=1C=C(N2C1C=CC=C2)C2=C(C(NC2=O)=O)C2=NCCN1C3=C2C=C(C=C3CC1C(=O)N1CCCCC1)F | InChI=1S/C28H25FN6O3.H2O/c29-17-12-16-13-19(28(38)33-8-3-1-4-9-33)35-11-7-30-24(18(14-17)25(16)35)23-22(26(36)32-27(23)37)20-15-31-21-6-2-5-10-34(20)21;/h2,5-6,10,12,14-15,19H,1,3-4,7-9,11,13H2,(H,32,36,37);1H2
